US04536501
Equimolar amounts of (trans)-1-[[(3-ethoxy-3-oxopropyl)ethylamino]carbonyl]-4-hydroxy-L-proline, phenylmethyl ester and 4-(2-methoxyethenyl)phenol are reacted in the presence of triphenylphosphine and diethylazodicarboxylate to give (cis)-4-[4-(2-methoxyethenyl)phenoxy]-1-[[(3-ethoxy-3-oxopropyl)ethylamino]carbonyl]-L-proline, phenylmethyl ester.

reactant | (trans)-1-[[(3-ethoxy-3-oxopropyl)ethylamino]carbonyl]-4-hydroxy-L-proline, phenylmethyl ester | C(C)OC(CCN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)C[C@H](C1)O)CC)=O | C20H28N2O6
reactant | 4-(2-methoxyethenyl)phenol | COC=CC1=CC=C(C=C1)O | C9H10O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | (cis)-4-[4-(2-methoxyethenyl)phenoxy]-1-[[(3-ethoxy-3-oxopropyl)ethylamino]carbonyl]-L-proline, phenylmethyl ester | COC=CC1=CC=C(O[C@H]2C[C@H](N(C2)C(=O)N(CC)CCC(=O)OCC)C(=O)OCC2=CC=CC=C2)C=C1 | C29H36N2O7
